US07410976B2
N-(2-Amino-2-oxoethyl)-1′-{[1-cyclopropyl-5-(2-hydroxyethoxy)isoquinolin-7-yl]carbonyl}-4-oxospiro[chroman-2,4′-piperidine]-6-carboxamide
The intended compound was produced according to the procedure described in reference Example 37 but using 4-oxospiro(chroman-2,4′-piperidin)-6-yl-carboxylicacidcarbamoylmethyl amide hydrochloride and 1-cyclopropyl-5-(2-hydroxy-ethoxy)-isoquinoline-7-carboxylic acid in place of methyl 5″-{4-oxospiro[chroman-2,4′-piperidin]-6-yl}nicotinate di-hydrochloride and 1-cyclopropyl-5-methoxy-isoquinoline-7-carboxylic acid. 1H-NMR (400 MHz, DMSO-d6) δ: 8.75 (1.0H, t, J=5.7 Hz), 8.36 (1.0H, d, J=5.7 Hz), 8.31 (1.0H, d, J=2.4 Hz), 8.09 (1.0H, dd, J=8.8, 2.4 Hz), 8.05 (1.0H, s), 7.85 (1.0H, d, J=5.9 Hz), 7.34 (1.0H, s), 7.22-7.14 (2.0H, m), 6.99 (1.0H, s), 5.00 (1.0H, t, J=5.7 Hz), 4.39-4.25 (1.0H, m), 4.21 (2.0H, t, J=4.8 Hz), 3.84 (2.0H, q, J=4.8 Hz), 3.78 (2.0H, d, J=5.9 Hz), 3.62-3.17 (3.0H, m), 2.95 (2.0H, s), 2.93-2.85 (1.0H, m), 2.15-1.77 (4.0H, m), 1.15-0.99 (4.0H, m). MS [M]+=572.

reactant | 4-oxospiro(chroman-2,4′-piperidin)-6-yl-carboxylicacidcarbamoylmethyl amide hydrochloride | Cl.C(N)(=O)CNC(=O)C=1C=C2C(CC3(CCNCC3)OC2=CC1)=O
reactant | 1-cyclopropyl-5-(2-hydroxy-ethoxy)-isoquinoline-7-carboxylic acid | C1(CC1)C1=NC=CC2=C(C=C(C=C12)C(=O)O)OCCO | C15H15NO4
reactant | 1-cyclopropyl-5-methoxy-isoquinoline-7-carboxylic acid | C1(CC1)C1=NC=CC2=C(C=C(C=C12)C(=O)O)OC | C14H13NO3
product | N-(2-Amino-2-oxoethyl)-1′-{[1-cyclopropyl-5-(2-hydroxyethoxy)isoquinolin-7-yl]carbonyl}-4-oxospiro[chroman-2,4′-piperidine]-6-carboxamide | NC(CNC(=O)C=1C=C2C(CC3(CCN(CC3)C(=O)C3=CC(=C4C=CN=C(C4=C3)C3CC3)OCCO)OC2=CC1)=O)=O | C31H32N4O7
